US04128549
10-Methoxy-4H-benzo[4,5]cyclohepta[1,2]thiophen-4-one (compound of formula V)
9 g of potassium hydroxide are added to a solution of 17.5 g of 9-bromo-9,10-dihydro-10-methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one in 400 cc of methanol, and the solution is boiled at reflux for 6 hours. After cooling to 0°-5°, the precipitated crystalline material is filtered off and recrystallized from methanol. The pure 10-methoxy-4H-benzo[4,5]cyclohepta[1,2-b] thiophen-4-one, having a M.P. of 164°-166°, is obtained in this mannner. Microanalysis agrees with the formula C14H10O2S. The structure was ascertained with the nuclear magnetic resonance and mass spectrograph spectra.

reactant | potassium hydroxide | 9 g | [OH-].[K+]
reactant | 9-bromo-9,10-dihydro-10-methoxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | 17.5 g | BrC1C2=C(C(C3=C(SC=C3)C1OC)=O)C=CC=C2 | C14H11BrO2S
solvent | methanol | 400 cc | CO | CH4O
product | 10-Methoxy-4H-benzo[4,5]cyclohepta[1,2]thiophen-4-one | COC1=C2C(=CC(C=3C=CSC31)=O)C=CC=C2 | C14H10O2S
